US07399759B2
2-[2-(Hexylamino)-4-pyridyl]-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.44 g, 2.6 mmol) and 2-(hexylamino)isonicotinonitrile (0.26 g, 1.3 mmol) were dissolved in toluene (2.0 ml), and triethylamine (0.40 ml, 2.9 mmol) was added thereto. The reaction mixture was refluxed for 14 hrs, subjected to a silica gel (50 g) chromatography, eluted with hexane-ethyl acetate (2:1, v/v) and recrystallized from ethanol to give the titled compound (0.08 g, 18%) as white crystals.

reactant | Methyl thiosalicylate | 2.6 mmol, 0.44 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-(hexylamino)isonicotinonitrile | 1.3 mmol, 0.26 g | C(CCCCC)NC=1C=C(C#N)C=CN1 | C12H17N3
reactant | triethylamine | 2.9 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(Hexylamino)-4-pyridyl]-4H-1,3-benzothiazine-4-one | 0.08 g, 18% | C(CCCCC)NC1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H21N3OS
